US09421205B2
(c) 2-(2-Iodophenyl)acetamide (I38)
2-Iodophenylacetic acid (2.00 g, 7.63 mmol) was dissolved in dry THF (70 mL) and dry DMF (10 mL) under an atmosphere of nitrogen. To the solution were added 1-hydroxybenzotriazole (1.134 g, 8.396 mmol) and EDCl (1.609 g, 8.396 mmol) and N,N-diisopropylethylamine (5.318 mL, 30.53 mmol) and the reaction mixture was stirred at room temperature for 10 minutes. Ammonium carbonate (2.933 g, 30.53 mmol) was added in one portion, and the reaction was stirred room temperature for 17 hours. The volatiles were removed in vacuo and the residual solution was diluted with EtOAc (150 mL) and sat. aq. NaHCO3 (100 mL). The layers were separated and the organic layer were washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (I38) (1.755 g, 88% yield) as a beige solid; 1H NMR (400 MHz, d6-DMSO) δ 7.82 (dd, J=7.9, 0.9 Hz, 1H), 7.42 (s, 1H), 7.36-7.28 (m, 2H), 7.02-6.94 (m, 2H), 3.55 (s, 2H). LCMS Method C: rt 4.77 min; m/z 262.0 [M+H]+.

reactant | 2-Iodophenylacetic acid | 7.63 mmol, 2.00 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | 1-hydroxybenzotriazole | 8.396 mmol, 1.134 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 8.396 mmol, 1.609 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 30.53 mmol, 5.318 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ammonium carbonate | 30.53 mmol, 2.933 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-Iodophenyl)acetamide | 88% yield | IC1=C(C=CC=C1)CC(=O)N | C8H8INO
